US05182296
100 g of 1,2-epoxypropyl tert.-butyl ether are added dropwise to 500 ml of conc. aqueous ammonia under ice-cooling and the mixture is stirred at room temperature for 20 hours. The reaction mixture is evaporated under reduced pressure to remove the aqueous ammonia. Chloroform is added to the residue. The mixture is dried with potassium carbonate. Insoluble materials are filtered off and the filtrate is evaporated to remove the solvent. The residue is distilled under reduced pressure. 49.3 g of 1-amino-3-tert.-butoxy-2-propanol are obtained.

reactant | 1,2-epoxypropyl tert.-butyl ether | 100 g | C(C)(C)(C)OC1C(C)O1 | C7H14O2
reactant | ammonia | 500 ml | N | H3N
product | 1-amino-3-tert.-butoxy-2-propanol | 49.3 g | NCC(COC(C)(C)C)O | C7H17NO2
